US07402672B2
3-(2,3-Dichlorophenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-9
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(2,3-dichlorophenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-9 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.62 (bs, 1H), 8.44 (dd, 1H, J=1.2, 4.5 Hz), 8.10 (bs, 1H), 7.93 (dd, 1H, J=1.2, 8.3 Hz), 7.75 (bs, 1H), 7.35 (m, 2H), 7.07 (t, 1H, J=8.1 Hz), 6.40 (dd, 1H, J=1.4, 8.1 Hz). MS Obs 338.1 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(2,3-dichlorophenyl)disulfide | 1.1 equiv | ClC1=C(C=CC=C1Cl)SSC1=C(C(=CC=C1)Cl)Cl | C12H6Cl4S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2,3-Dichlorophenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | ClC1=C(C=CC=C1Cl)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H9Cl2N3OS
